US05565451
Under a nitrogen atmosphere, a stirred mixture of 4.5 grams (0.016 mole) 3-(naphth-2-yloxymethyl)nitrobenzene and 4.5 grams (0.081 mole) of iron powder in 10 mL of water and 50 mL of acetic acid was heated at reflux for about six hours. After this time the reaction mixture was cooled to ambient temperature, and 100 mL of methylene chloride was added. The mixture was filtered, and an additional 100 mL of methylene chloride was added to the filtrate. The methylene chloride layer was separated and washed with four portions of an aqueous solution saturated with sodium bicarbonate and then with two portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was then dissolved in diethyl ether and treated with an excess of an ethereal solution of hydrogen chloride. The resultant precipitate was collected by filtration and recrystallized from ethyl acetate and diethyl ether, yielding 3.1 grams of 3-(naphth-2-yloxymethyl)aniline hydrochloride. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(naphth-2-yloxymethyl)nitrobenzene | 0.016 mole, 4.5 grams | C1=C(C=CC2=CC=CC=C12)OCC=1C=C(C=CC1)[N+](=O)[O-] | C17H13NO3
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.081 mole, 4.5 grams | [Fe] | Fe
product | 3-(naphth-2-yloxymethyl)aniline hydrochloride | 3.1 grams | Cl.C1=C(C=CC2=CC=CC=C12)OCC=1C=C(N)C=CC1 | InChI=1S/C17H15NO.ClH/c18-16-7-3-4-13(10-16)12-19-17-9-8-14-5-1-2-6-15(14)11-17;/h1-11H,12,18H2;1H
